US09403805B2
To a stirred solution of (2S,4R)-4-tert-butoxy-2-(2-oxo-propylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester (2.5 g, 6.65 mmol) and hexachloroethane (3.148 g, 13.3 mmol) in dichloromethane (16 mL) was added triphenyl phosphine (3.458 g, 13.3 mmol). The mixture was stirred at 0° C. for 20 min. Then triethylamine (1.36 mL, 13.3 mmol) was added and the reaction mixture was stirred at room temp. for 14 h. Water was then added to the reaction mixture, extracted with dichloromethane and the combined organic layer was washed with water and brine. The organic layer was dried over anhydrous sodium sulfate and concentrated. The crude was then purified by column chromatography to give (2S,4R)-4-tert-butoxy-2-(5-methyl-oxazol-2-yl)-pyrrolidine-1-carboxylic acid benzyl ester (1 g, 42% yield) as an off-white solid. MS calcd. for C20H27N2O4 [(M+H)+] 359.0, obsd. 359.0.

reactant | (2S,4R)-4-tert-butoxy-2-(2-oxo-propylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester | 6.65 mmol, 2.5 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OC(C)(C)C)C(NCC(C)=O)=O | C20H28N2O5
reactant | hexachloroethane | 13.3 mmol, 3.148 g | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
reactant | triphenyl phosphine | 13.3 mmol, 3.458 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 13.3 mmol, 1.36 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 16 mL | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | (2S,4R)-4-tert-butoxy-2-(5-methyl-oxazol-2-yl)-pyrrolidine-1-carboxylic acid benzyl ester | 1 g, 42% yield | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OC(C)(C)C)C=1OC(=CN1)C | C20H26N2O4
